US09085570B2
A mixture of methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate (2.65 g, 10.00 mmol, 1.00 equiv), lithium 4-((dimethylamino)methyl)benzenesulfinate (3.075 g, 15.00 mmol, 1.50 equiv) and potassium carbonate (1.38 g, 10.00 mmol, 1.00 equiv) in N,N-dimethylformamide (100 mL) was stirred overnight at 70° C. Water (150 mL) was added and the resulting solution was extracted with 3×200 mL of ethyl acetate. The combined organic layers was washed with 3×200 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to yield 0.9 g (16%) of methyl 4-(4-((4-((dimethylamino)methyl)phenylsulfonyl)methyl)-5-methyloxazol-2-yl)benzoate as a light yellow solid. LC-MS: (ES, m/z): 429 [M+H]+, 175, 120.

reactant | methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate | 10.00 mmol, 2.65 g, 1.00 equiv | ClCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C13H12ClNO3
reactant | lithium 4-((dimethylamino)methyl)benzenesulfinate | 15.00 mmol, 3.075 g, 1.50 equiv | CN(C)CC1=CC=C(C=C1)S(=O)[O-].[Li+]
reactant | potassium carbonate | 10.00 mmol, 1.38 g, 1.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 150 mL | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | methyl 4-(4-((4-((dimethylamino)methyl)phenylsulfonyl)methyl)-5-methyloxazol-2-yl)benzoate | 0.9 g, 16% | CN(C)CC1=CC=C(C=C1)S(=O)(=O)CC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C22H24N2O5S
